US07834021B2
To a solution of N-benzyl -1-methoxy-N-[(trimethylsilyl)methyl]methanamine (2.5 g, 21 mmol) and ethyl 2-(fluoromethyl)acrylate (5.0 g, 21 mmol) in methylene chloride (30 mL) was added TFA (0.15 ml, 2.1 mmol) at 0° C. The reaction mixture was stirred at 0° C. overnight. 20 mL of saturated NaHCO3 aqueous solution and 20 mL of ethyl acetate were added to quench the reaction. The organic layer was separated, and the aqueous layer was extracted twice with EtOAc (20 mL×2). The combined organic extracts were dried over MgSO4 and evaporated to give an oil residue. Chromatography on silica gel with 10% EtOAc-Hexane afforded 1.27 g (4.8 mmol, yield: 23%) of ethyl 1-benzyl-3-(fluoromethyl)pyrrolidine-3-carboxylate: 1H NMR (400 MHz, CDCl3) δ 7.39-7.20 (5H, m), 4.62-4.44 (2H, m), 4.18-4.21 (2H, m), 3.62 (2H, s), 2.81-2.72 (2H, m), 2.60-2.50 (2H, m), 2.22 (2H, s), 1.25 (311, t, J=6.7 Hz); MS (m/e): 266 (M+1)+.

reactant | N-benzyl -1-methoxy-N-[(trimethylsilyl)methyl]methanamine | 21 mmol, 2.5 g | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
reactant | ethyl 2-(fluoromethyl)acrylate | 21 mmol, 5.0 g | FCC(C(=O)OCC)=C | C6H9FO2
reactant | TFA | 2.1 mmol, 0.15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-benzyl-3-(fluoromethyl)pyrrolidine-3-carboxylate | 4.8 mmol, 1.27 g, yield: 23% | C(C1=CC=CC=C1)N1CC(CC1)(C(=O)OCC)CF | C15H20FNO2
